data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][CH2:21][C:22](=[N+:23](C)C)OC1C=CC2CCN(C2C1CCO[Si](C)(C)C(C)(C)C)C(=O)OC.CO.C[O-:10]>>[H:20][O:10]C.CC(C)(C)[Si](C)(C)OCCC1C(C=CC2C1N(CC2)C(=O)OC)O[C:22](=[CH2:21])[N:23](C)C.CO 10=20;20,21=21,22;22,23=23
C[O+:11](C1=CC=CC=C1)[Na:10]>>C[O:11]C1=CC=CC=C1.[Na+:10] 10,11=11
[H:20][C:21]12C=CC=C[C:22]1=[N+:23](C(=O)C2(C)Br)C.C1CC(=O)[N-:10]C1=O.N#N>>[H:20][N:10]1C(=O)CCC1=O.CC1([C:21]2=[C:22](C=CC=C2)[N:23](C1=O)C)Br.N#N 10=20;22,23=23;20,21=21,22
C[CH:10]=[C:11](C1=CC=CC=C1)[O:12]CCO.[Br:20][Br:21]>>C[CH:10]([C:11](=[O+:12]CCO)C1=CC=CC=C1)[Br:20].[Br-:21] 10,11=10,20;20,21=21;12=11
[H:20][O:21]C.C(CC[O-:10])CO>>[H:20][O:10]CCCCO.C[O-:21] 10=20;20,21=21
[H:20][C:21]1([CH:22]=[CH:23][C+:24](C2=CC=CC=C21)Br)Br.[Br-:10]>>C1=CC=C2C(=C1)[C:21](=[CH:22][CH:23]=[C:24]2Br)Br.[H:20][Br:10] 10=20;20,21=21,22;22,23=23,24
[Li:11][CH:10](CC=C)CC=C.CC(C)[CH:20]=[O:21]>>[Li+:11].CC(C)[CH:20]([CH:10](CC=C)CC=C)[O-:21] 10,11=10,20;20,21=21
[H:20][OH2+:21].CC1=C(C=C2C3CCC(C(C3([N:10]4CCCC4)O)(CC2=C1)C)O)OC.[Cl-]>>[H:20][N+:10]1(CCCC1)C2(C3CCC(C2(CC4=CC(=C(C=C34)OC)C)C)O)O.[OH2:21].[Cl-] 10=20;20,21=21
[H:20][O:21]OC(=[O:10])C1=CC=CC(=C1)Cl.COC1=C(C2=C(CC3C4=C(CCN3C2)C=C5C(=C4)OCO5)C=C1)OC>>[H:20][O+:10]=C(C1=CC=CC(=C1)Cl)O[O-:21].COC1=C(C2=C(CC3C4=C(CCN3C2)C=C5C(=C4)OCO5)C=C1)OC 10=20;20,21=21
[H:20][O+:21](C)C1C(C(C(C(O1)CO)O)O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C[O:21]C1C(C(C(C(O1)CO)O)O)O 10=20;20,21=21
[H:20][O:21]C(=O)C(F)(F)F.CCCCCCCCC=CCCCCCCCC(=O)OCC(C[O:10]C(C)(C)O)O.C1CCOC1.O>>[H:20][O+:10](CC(COC(=O)CCCCCCCC=CCCCCCCCC)O)C(C)(C)O.C(=O)(C(F)(F)F)[O-:21].C1CCOC1.O 10=20;20,21=21
C[NH:10]N.COC1=CC=C(C=C1)[CH2:20][Cl:21]>>C[NH+:10]([CH2:20]C1=CC=C(C=C1)OC)N.[Cl-:21] 10=20;20,21=21
C1C[N+:21]2(CC[N+]1(CC2)CCl)[F:20].[I-:10].[B-](F)(F)(F)F.CC(=O)NC(CC1=CC=C(C=C1)O)C(=O)NC>>C1C[N+]2(CC[N:21]1CC2)CCl.[F:20][I:10].[B-](F)(F)(F)F.CC(=O)NC(CC1=CC=C(C=C1)O)C(=O)NC 10=20;20,21=21
[H:20][O:21]C1=CC(=CC=C1)C#N.CC[O:10][Na].C(CCl)CBr>>[H:20][O+:10](CC)[Na].C1=CC(=CC(=C1)C#N)[O-:21].C(CCl)CBr 10=20;20,21=21
C1=CC=C(C=C1)[CH2:20][Cl:21].C1=CC2=C(C=C1)C(=O)[N-:10]C2=O>>C1=CC=C(C=C1)[CH2:20][N:10]2C(=O)C3=C(C2=O)C=CC=C3.[Cl-:21] 10=20;20,21=21
CC[NH2:10].CCO[C:20](=[O:21])C>>CC[NH2+:10][C:20](C)([O-:21])OCC 10=20;20,21=21
[B-]([O:10][CH:20](C)[OH2+:21])(F)(F)F>>[B-]([O+:10]=[CH:20]C)(F)(F)F.[OH2:21] 10=20;20,21=21
C[Si:20](C)(C)[O+]=C.[Cl-:10]>>C[Si-:20](C)(C)([O+]=C)[Cl:10] 10=20,
C[CH:20]([N:10](C)C1=CC=CC=C1)[OH2+:21].CC(=O)[O-]>>C[CH:20]=[N+:10](C)C1=CC=CC=C1.[OH2:21].CC(=O)[O-] 10=20;20,21=21
[H:20][S+:21](C)Cl.[Cl-:10]>>[H:20][Cl:10].C[S:21]Cl 10=20;20,21=21
C[CH:20]([N:10](C)C)[OH2+:21]>>C[CH:20]=[N+:10](C)C.[OH2:21] 10=20;20,21=21
CCCCCC1(CCCC2=C([C:20]1([OH:21])[O-:10])C=CC=C2)C(=O)C(C)(C)O[P+](C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5>>CCCCCC1(CCCC2=C([C:20]1=[O:10])C=CC=C2)C(=O)C(C)(C)O[P+](C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5.[OH-:21] 10=20;20,21=21
[H:20][O:21]C(C1=NC2=C(C=CC=C2)C=C1)(C3=[N+](N=C4N3C(CC4F)C(C)C)C5=C(C(=C(C(=C5F)F)F)F)F)C([CH:10]=[C:11](C(=O)OCC)[O-:12])C6=CC=CC=C6.[B-](F)(F)(F)F.CC[NH+](C(C)C)C(C)C>>[H:20][CH:10](C(C1=CC=CC=C1)C(C2=NC3=C(C=CC=C3)C=C2)(C4=[N+](N=C5N4C(CC5F)C(C)C)C6=C(C(=C(C(=C6F)F)F)F)F)[O-:21])[C:11](=[O:12])C(=O)OCC.[B-](F)(F)(F)F.CC[NH+](C(C)C)C(C)C 10,11=10,20;20,21=21;12=11
[H:20][NH3+:21].O[Ca][OH:10].C(C(=O)[O-])Cl>>[H:20][OH+:10][Ca]O.[NH3:21].C(C(=O)[O-])Cl 10=20;20,21=21
C[CH:20]1[O:10]CC[O+:21]1[Si](C)(C)C>>C[CH:20]=[O+:10]CC[O:21][Si](C)(C)C 10=20;20,21=21
[H:20][OH2+:21].CC=C[CH:11]=[CH:10]C>>[H:20][CH:10](C)[CH+:11]C=CC.[OH2:21] 10,11=10,20;20,21=21
[H:20][C:21]#N.C(=[NH:10])C#N.[C-]#N.O>>[H:20][NH+:10]=CC#N.[C-:21]#N.[C-]#N.O 10=20;20,21=21
[H:20][OH+:21]P(O)(O)(O)Br.[OH2:10]>>OP(O)(O)([OH:21])Br.[H:20][OH2+:10] 10=20;20,21=21
[H:20][O:21]C(=O)C(F)(F)F.CCC1(C2=C(COC1=O)C(=O)N3CCC4(C3=C2)OCC[O:10]4)O.C1CCOC1.O>>[H:20][O+:10]1CCOC12CCN3C2=CC4=C(C3=O)COC(=O)C4(CC)O.C(=O)(C(F)(F)F)[O-:21].C1CCOC1.O 10=20;20,21=21
[H:20][Cl:21].CC(C)([NH2+]C)[O-:10]>>[H:20][O:10]C(C)(C)[NH2+]C.[Cl-:21] 10=20;20,21=21
C[Si-:11]1([CH2:10][CH:20]([O:21]1)CC2=C(C=C3C(=C2)OCO3)I)(C)C>>C[Si:11](C)(C)[O-:21].[CH2:10]=[CH:20]CC1=C(C=C2C(=C1)OCO2)I 10,11=10,20;20,21=21
[H:20][C:21](CCCC[O-])([CH:22]=[O:23])Br.[OH-:10]>>[H:20][OH:10].C(CC[O-])C[C:21](=[CH:22][O-:23])Br 10=20;22,23=23;20,21=21,22
C[CH:20](C(=O)OC(C1=CC=CC=C1)C2=CC=CC=C2)[O:21][P+:22](C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5.C1=CC=C(C=C1)OCC(=O)[O-:10].CCOC(=O)NNC(=O)OCC.CCOC(=O)NN=C(O)OCC>>C[CH:20](C(=O)OC(C1=CC=CC=C1)C2=CC=CC=C2)[O:10]C(=O)COC3=CC=CC=C3.C1=CC=C(C=C1)[P:22](=[O:21])(C2=CC=CC=C2)C3=CC=CC=C3.CCOC(=O)NNC(=O)OCC.CCOC(=O)NN=C(O)OCC 10=20;20,21=21,22
[H:20][O:21]CCCCCC.[H:10][Na:11]>>CCCCCC[O-:21].[H:10][H:20].[Na+:11] 10,11=10,20;20,21=21
[H:20][O:21][S+](=O)=O.C1=CC=C(C=C1)CC=CC[O-:10]>>[H:20][O:10]CC=CCC1=CC=CC=C1.[O-:21][S+](=O)=O 10=20;20,21=21
C[NH+:21]=[CH2:20].[Br-:10]>>C[NH:21][CH2:20][Br:10] 10=20;20,21=21
